US07351724B2
1-[5-(Pyridin-2-yl)-1,3,4-oxadiazol-2-yl]-octadec-9-en-1-one
A solution of cis-1-bromo-heptadec-8-ene (60 mg, 0.2 mmol) in THF (1 mL) was treated with t-BuLi (1.5 M in pentane, 270 μL, 0.4 mmol) at −40° C. After stirring for 30 min, the resulting alkyl lithium reagent was added to a solution of methyl 5-(pyridin-2-yl)-[1,3,4]-oxadiazole-2-carboxylate (20 mg, 0.1 mmol) in THF (2 mL) at −40° C. The reaction mixture was stirred for 4 h before it was quenched with the addition of brine. The mixture was extracted with EtOAc, concentrated, and purified by flash chromatography (SiO2, 1×3 cm, 30% EtOAc-hexanes) to provide the title compound (8.5 mg, 23%) as white solid. 1H NMR (400 MHz, CDCl3) 8.85 (dd, J=5, 1.2 Hz, 1H), 8.30 (dd, J=7.9, 1.2 Hz, 1H), 7.94 (td, J=7.6, 1.5 Hz, 1H), 7.54 (ddd, J=7.6, 4.7, 1.2 Hz, 1H), 5.34-5.37 (m, 2H), 3.22 (t, J=7.3 Hz, 2H), 2.02 (m, 4H), 1.82 (m, 2H), 1.27-1.41 (m, 20H), 0.88 (t, J=6.4 Hz, 3H); 13C NMR (CDCl3, 100 MHz) 187.2, 165.1, 161.2, 150.8, 142.6, 150.8, 142.6, 137.3, 130.0, 129.7, 126.7, 124.0, 40.1, 31.9, 29.8, 29.7, 29.5, 29.3, 29.2, 29.1, 29.0, 27.2, 27.1, 23.6, 22.7, 14.1; MALDI-FTMS m/z 412.2955 (C25H37N3O2+H+ requires 412.2958).

reactant | cis-1-bromo-heptadec-8-ene | 0.2 mmol, 60 mg | BrCCCCCCC\C=C/CCCCCCCC | C17H33Br
reactant | t-BuLi | 0.4 mmol, 1.5 M, 270 μL | [Li]C(C)(C)C
reactant | methyl 5-(pyridin-2-yl)-[1,3,4]-oxadiazole-2-carboxylate | 0.1 mmol, 20 mg | N1=C(C=CC=C1)C1=NN=C(O1)C(=O)OC | C9H7N3O3
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-[5-(Pyridin-2-yl)-1,3,4-oxadiazol-2-yl]-octadec-9-en-1-one | 8.5 mg, 23% | N1=C(C=CC=C1)C1=NN=C(O1)C(CCCCCCCC=CCCCCCCCC)=O | C25H37N3O2
